US05332757
Using an analogous procedure to that described in Example 25, 4'-{5-fluoro-3-[(2S,4R)-4-methoxy-2-methyltetrahydropyran-4-yl]phenylthio]acetophenone was reacted with hydroxylamine hydrochloride to give (E)-4'-{5-fluoro-3-[(2S,4R)-4-methoxy-2-methyltetrahydropyran-4-yl]phenylthio}acetophenone oxime in 66% yield, m.p. 105° C.;

reactant | 4'-{5-fluoro-3-[(2S,4R)-4-methoxy-2-methyltetrahydropyran-4-yl]phenylthio]acetophenone | FC=1C=C(C=C(C1)SC1=CC=C(C=C1)C(C)=O)[C@@]1(C[C@@H](OCC1)C)OC | C21H23FO3S
reactant | hydroxylamine hydrochloride | Cl.NO
product | (E)-4'-{5-fluoro-3-[(2S,4R)-4-methoxy-2-methyltetrahydropyran-4-yl]phenylthio}acetophenone oxime | 66% yield | FC=1C=C(C=C(C1)SC1=CC=C(C=C1)/C(/C)=N/O)[C@@]1(C[C@@H](OCC1)C)OC | C21H24FNO3S
